US04386081
A mixture of 24.2 g (0.20 mole) N,N-dimethylaniline and 20.3 g (0.20 mole) of cyclopentylmethanol was slowly added to a 20% solution of phosgene in toluene (104 ml, 0.20 mole) cooled to -5° to +5° C. After the addition the reaction mixture was allowed to attain room temperature and was kept at room temperature for 30 min. The precipitate was filtered off and the solvent was evaporated. Distillation in vacuo gave 26.3 g (81%) of cyclopentylmethyl chloroformate. Bp17-20 82°-84° C., nD21 1.4541. Analysis for C7H11ClO2. Found (calculated): Cl 21.37 (21.80). IR (neat) cm-1 : 1790 (CO).

reactant | N,N-dimethylaniline | 0.20 mole, 24.2 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | cyclopentylmethanol | 0.20 mole, 20.3 g | C1(CCCC1)CO | C6H12O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 0.20 mole, 104 ml | C1(=CC=CC=C1)C | C7H8
product | cyclopentylmethyl chloroformate | 26.3 g, 81% | ClC(=O)OCC1CCCC1 | C7H11ClO2
